US04640913
2-Methyl-β-octadecyl-1,3-dioxolan-2-propanol
To a suspension of about 3.75 g of lithium aluminum hydride in about 100 ml of ether at about 0° C., was added dropwise, under argon, over about 20 minutes, a solution of about 29 g of 2-methyl-α-octadecyl-1,3-dioxolan-2-propanoic acid, ethyl ester in about 200 ml of ether. This mixture was stirred about 40 minutes at room temperature, then about 15 ml of ethyl acetate were added dropwise, followed by about 1.5 ml of water, about 3 ml of about 15% sodium hydroxide and about 4 ml of water. The mixture was then filtered through celite and the solid washed with ether. The solvent was removed from the filtrate, giving an oil which crystallized on standing, giving about 24.1 g of the desired title compound, mp 34°-35° C.

reactant | lithium aluminum hydride | about 3.75 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-methyl-α-octadecyl-1,3-dioxolan-2-propanoic acid, ethyl ester | about 29 g | CC1(OCCO1)CC(C(=O)OCC)CCCCCCCCCCCCCCCCCC | C27H52O4
reactant | ethyl acetate | about 15 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | about 3 ml | [OH-].[Na+]
solvent | ether | about 100 ml | CCOCC | C4H10O
solvent | ether | about 200 ml | CCOCC | C4H10O
solvent | water | about 4 ml | O | H2O
solvent | water | about 1.5 ml | O | H2O
product | 2-Methyl-β-octadecyl-1,3-dioxolan-2-propanol | about 24.1 g | CC1(OCCO1)CC(CO)CCCCCCCCCCCCCCCCCC | C25H50O3
